US04891372
7-Nitro-3-(2-[4-nitrophenoxy]ethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine
7-Nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (0.7 g), 2-[4-nitrophenoxy]ethyl chloride (0.73 g) (see C. A. [1955], 49, 3163e), sodium iodide (0.5 g) and potassium carbonate in acetonitrile (50 ml) were heated under reflux for 3 days. After cooling, the solvent was removed in vacuo, the residue dissolved in ethyl acetate and washed once with water, once with sodium carbonate and twice with brine. The organic layer was dried (Na2SO4) and evaporated in vacuo to give an oil which was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 1%). The product-containing fractions were combined and evaporated in vacuo to give the product as an orange oil, yield 1.0 g.

reactant | 7-Nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.7 g | [N+](=O)([O-])C1=CC2=C(CCNCC2)C=C1 | C10H12N2O2
reactant | 2-[4-nitrophenoxy]ethyl chloride | 0.73 g | [N+](=O)([O-])C1=CC=C(OCCCl)C=C1 | C8H8ClNO3
reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-Nitro-3-(2-[4-nitrophenoxy]ethyl)-1,2,4,5-tetrahydro-3H-3-benzazepine | [N+](=O)([O-])C1=CC2=C(CCN(CC2)CCOC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H19N3O5
